US03957783
To a solution of 0.5 g of 1-methyl-4-(o-fluorophenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-2-one in 20 ml of methylene chloride is added dropwise 1.21 g of sulfuryl chloride. After stirring the reaction mixture for 72 hours at room temperature, the reaction mixture is neutralized with aqueous ammonia, then extracted with methylene chloride. The methylene chloride extracts are washed with water, dried and evaporated under reduced pressure to a residue, to give crystals which are recrystallized from ethanol to give 1-methyl-4-(o-fluorophenyl)-6-chloro-1,2-dihydrothieno[2,3-d]pyrimidin-2-one as crystals having a melting point of 192.5° - 194°C.

reactant | 1-methyl-4-(o-fluorophenyl)-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | 0.5 g | CN1C(N=C(C2=C1SC=C2)C2=C(C=CC=C2)F)=O | C13H9FN2OS
reactant | sulfuryl chloride | 1.21 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ammonia | N | H3N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-4-(o-fluorophenyl)-6-chloro-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | CN1C(N=C(C2=C1SC(=C2)Cl)C2=C(C=CC=C2)F)=O | C13H8ClFN2OS
